US07745438B2
(2R,5R)-5-[(1R,2S)-3-(3-Chloro-5-fluorophenyl)-1-hydroxy-2-nitropropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester
Add 1-chloro-3-fluoro-5-(2-nitroethyl)-benzene (0.343 g, 1.68 mmol) in dry tetrahydrofuran (2 mL) to a solution of (2R,5R)-2-(2,2-dimethylpropoxy)-5-formylmorpholine-4-carboxylic acid tert-butyl ester (0.462 g, 1.53 mmol) in tetrahydrofuran (7 mL). Add tetrabutylammonium fluoride (0.77 mL, 0.765 mmol, 1.0 M in tetrahydrofuran) and stir at room temperature for 1 hour. Dilute with ethyl acetate and wash with saturated aqueous sodium chloride, dry (sodium sulfate), concentrate and purify (silica gel chromatography, eluting with 2:98 ethyl acetate:dichloromethane) to give the desired compound as a white foam (0.455 g, 59%).

reactant | 1-chloro-3-fluoro-5-(2-nitroethyl)-benzene | 1.68 mmol, 0.343 g | ClC1=CC(=CC(=C1)CC[N+](=O)[O-])F | C8H7ClFNO2
reactant | (2R,5R)-2-(2,2-dimethylpropoxy)-5-formylmorpholine-4-carboxylic acid tert-butyl ester | 1.53 mmol, 0.462 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1C=O)OCC(C)(C)C | C15H27NO5
reactant | tetrabutylammonium fluoride | 0.765 mmol, 1.0 M, 0.77 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,5R)-5-[(1R,2S)-3-(3-Chloro-5-fluorophenyl)-1-hydroxy-2-nitropropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.455 g, 59% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)Cl)[N+](=O)[O-])O)OCC(C)(C)C | C23H34ClFN2O7
